US05047411
A mixture of (chloroacetonyl)triphenylphosphonium chloride (190.7 g) and 2-amino-4-methylpyridine (158.9 g) in acetonitrile (1.3 l) was stirred under reflux for 5.5 hours. To the reaction mixture were added water (400 ml) and 3-benzyloxy-4-nitrobenzaldehyde (63.0 g) under ice-cooling. The mixture was adjusted to pH 9.5 with potassium carbonate and stirred for 2.5 hours at ambient temperature under keeping the pH 9.5 to 10.0 with 20% aqueous potassium carbonate. The reaction mixture was adjusted to pH 2.0 with conc. hydrochloric acid and the precipitate was collected by filtration. To a mixture of ethyl acetate, tetrahydrofuran and water was added the above obtained precipitate and the resultant mixture was adjusted to pH 7.0 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo to give 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine (43.14 g).

reactant | (chloroacetonyl)triphenylphosphonium chloride | 190.7 g | [Cl-].ClCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | 2-amino-4-methylpyridine | 158.9 g | NC1=NC=CC(=C1)C | C6H8N2
reactant | 3-benzyloxy-4-nitrobenzaldehyde | 63.0 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C14H11NO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 1.3 l | C(C)#N | C2H3N
solvent | water | 400 ml | O | H2O
product | 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine | 43.14 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CC=1N=C2N(C=CC(=C2)C)C1 | C23H19N3O3
